US05409943
(a) 2-Amino- 3-(2,5-dichlorobenzyloxy)pyridine
A mixture of 2,5-dichlorobenzyl bromide (14.8 g, 75.9 mmol) and 2-amino-3hydroxypyridine (7.7 g, 69.7 mmol) in 40% aqueous sodium hydroxide solution (52 ml) and dichloromethane (52 ml) was treated with Adogen 464 (5 ml) and stirred vigorously at room temperature for 16 hours. More water was added and the product extracted into dichloromethane, dried, and the solvent evaporated to obtain the product after trituration with ether (8.6 g, 46%), m.p. 103°-104 ° C.

reactant | 2,5-dichlorobenzyl bromide | 75.9 mmol, 14.8 g | ClC1=C(CBr)C=C(C=C1)Cl | C7H5BrCl2
reactant | 2-amino-3hydroxypyridine | 69.7 mmol, 7.7 g | NC1=NC=CC=C1O | C5H6N2O
reactant | water | O | H2O
solvent | sodium hydroxide | 52 ml | [OH-].[Na+]
solvent | dichloromethane | 52 ml | ClCCl | CH2Cl2
catalyst | Adogen 464 | 5 ml | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
product | 2-Amino- 3-(2,5-dichlorobenzyloxy)pyridine | NC1=NC=CC=C1OCC1=C(C=CC(=C1)Cl)Cl | C12H10Cl2N2O
